US07314937B2
7-(3-Piperidin-1-yl-propoxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid isopropylamide:
A 10 mL CH2Cl2 solution of 7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline dihydrochloride (254 mg, 0.73 mmol), NEt3 (0.20 mL, 1.4 mmol), isopropyl isocyanate (192 mg, 2.2 mmol), and 4-dimethylaminopyridine (12 mg, 0.1 mmol) is stirred under N2, at room temperature for 18 hours. The reaction mixture is concentrated and the residue is purified by chromatography (SCX-MeOH wash, elute 2M NH3/MeOH; then SiO2; 0-10% MeOH/CH2Cl2/1% NH4OH gradient) to give pure product (110 mg, 42% yld). MS(ES+) 360.2(M+H)+.

reactant | 7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline dihydrochloride | 0.73 mmol, 254 mg | Cl.Cl.N1(CCCCC1)CCCOC1=CC=C2CCNCC2=C1
reactant | NEt3 | 1.4 mmol, 0.20 mL | CCN(CC)CC | C6H15N
reactant | isopropyl isocyanate | 2.2 mmol, 192 mg | C(C)(C)N=C=O | C4H7NO
catalyst | 4-dimethylaminopyridine | 0.1 mmol, 12 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 7-(3-Piperidin-1-yl-propoxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid isopropylamide | C(C)(C)NC(=O)N1CC2=CC(=CC=C2CC1)OCCCN1CCCCC1 | C21H33N3O2
